US07196090B2
3-(2,6-Difluoro-3,5-dimethoxy-phenyl)-1-ethyl-7-methylsulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one
A solution of 4.23 g (10.67 mmol) of 3-(2,6-difluoro-3,5-dimethoxy-phenyl)-1-ethyl-7-methylsulfanyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one in 90 mL of chloroform was treated with 3.35 g (12.80 mmol) of 3-phenyl-2-(phenylsulfonyl)-oxaziridine and stirred at room temp. under N2 atmosphere overnight. Crude product was purified by medium-pressure chromatography eluting with straight ethyl acetate and a gradient of 1% to 3% MeOH in chloroform to give 4.45 g (quantitative) title compound. MS (APCI) (m+1)/z 413.1.

reactant | 3-(2,6-difluoro-3,5-dimethoxy-phenyl)-1-ethyl-7-methylsulfanyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 10.67 mmol, 4.23 g | FC1=C(C(=C(C=C1OC)OC)F)N1C(N(C2=NC(=NC=C2C1)SC)CC)=O | C17H18F2N4O3S
reactant | 3-phenyl-2-(phenylsulfonyl)-oxaziridine | 12.80 mmol, 3.35 g | C1(=CC=CC=C1)C1N(O1)S(=O)(=O)C1=CC=CC=C1 | C13H11NO3S
solvent | chloroform | 90 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(2,6-Difluoro-3,5-dimethoxy-phenyl)-1-ethyl-7-methylsulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | FC1=C(C(=C(C=C1OC)OC)F)N1C(N(C2=NC(=NC=C2C1)S(=O)C)CC)=O | C17H18F2N4O4S
